US04435419
4'-(3-Azabicyclo[3.1.0]hex-1-yl)-benzophenone hydrochloride
A mixture of 12.9 g. of aluminum chloride and 9.7 g. of benzoyl chloride in 55 ml. of dichloromethane is stirred at -10° C. To this is added 5.6 g. of 1-phenyl-3-azabicyclo[3.1.0]hexane over a period of 10 minutes while the temperature is maintained at -10° C. to -5° C. The reaction is then stirred at 0° C. for 10 minutes, and then at room temperature for two days. The mixture is carefully poured onto ice and then extracted with dichloromethane. The extract is dried, filtered, and then concentrated to 25 ml. and diluted with ether. The resultant solid is collected, washed with ether, dried and recrystallized from acetonitrile to give 2.0 g. of the desired product, m.p. 171°-173° C.

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-phenyl-3-azabicyclo[3.1.0]hexane | C1(=CC=CC=C1)C12CNCC2C1 | C11H13N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4'-(3-Azabicyclo[3.1.0]hex-1-yl)-benzophenone hydrochloride | Cl.C12(CNCC2C1)C1=CC=C(C=C1)C(C1=CC=CC=C1)=O | InChI=1S/C18H17NO.ClH/c20-17(13-4-2-1-3-5-13)14-6-8-15(9-7-14)18-10-16(18)11-19-12-18;/h1-9,16,19H,10-12H2;1H
